US07405299B2
Preparation of 3-[6-[2-(6-Methyl-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]-benzoimidazol-1-yl]-propan-1-ol
Heat a solution of (6-[2-(6-methyl-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]-1-[3-(tetrahydro-pyran-2-yloxy)-propyl]-1H-benzoimidazole (Example 54; 368 mg mg, 0.8 mmol) in 4:2:1 acetic acid/tetrahydrofuran/water (20 mL) to 80° C. for 18 h. Remove the solvent in vacuo and dissolve the residue in excess 3:1 chloroform/isopropyl alcohol. Wash the organic layer with saturated sodium bicarbonate, dry over sodium sulfate, filter, and concentrate in vacuo. Purify the residue by column chromatography on silica gel eluting with dichloromethane to 10% methanol/90% dichloromethane to give the desired product as a white solid (225 mg, 75%). MS ES+ m/e 374.3 (M+1).

reactant | 6-[2-(6-methyl-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]-1-[3-(tetrahydro-pyran-2-yloxy)-propyl]-1H-benzoimidazole | CC1=CC=CC(=N1)C=1C(=C2N(N1)CCC2)C=2C=CC1=C(N(C=N1)CCCOC1OCCCC1)C2 | C27H31N5O2
solvent | acetic acid tetrahydrofuran water | 20 mL | C(C)(=O)O.O1CCCC1.O
product | 3-[6-[2-(6-Methyl-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]-benzoimidazol-1-yl]-propan-1-ol | 225 mg, 75% | CC1=CC=CC(=N1)C=1C(=C2N(N1)CCC2)C=2C=CC1=C(N(C=N1)CCCO)C2 | C22H23N5O
